US07053212B2
Step B: 4-Hydroxy-N-(4-hydroxy-benzyl)-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-benzenesulfonamide
To a solution of 4-hydroxy-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide in methanol (20 mL) was added 1N HCl (5 mL). After stirring for 2 hr., water was added and the aqueous solution was washed with methylene chloride (3×). The combined organic solutions were washed with saturated aqueous sodium bicarbonate, dried (magnesium sulfate), filtered, and concentrated. The residue was purified via radial chromatography using a solvent gradient (methylene chloride to 10% methanol/methylene chloride) to provide the title compound. 1H NMR (CD3OD) δ 7.44 (d, 2H, J=8.0 Hz), 6.96 (d, 2H, J=8.0 Hz), 6.85–6.74 (m, 4H), 6.73 (d, 2H, J=8.0 Hz), 6.58 (d, 2H, J=8.0 Hz), 4.55 (s, 2H), 4.02 (t, 2H, J=5.6 Hz), 2.89 (t, 2H, J=5.6 Hz), 2.67 (bs, 4H), 1.81 (bs, 4H).

reactant | 4-hydroxy-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide | OC1=CC=C(C=C1)S(=O)(=O)N(CC1=CC=C(C=C1)OC1OCCCC1)C1=CC=C(C=C1)OCCN1CCCC1 | C30H36N2O6S
reactant | HCl | 1N, 5 mL | Cl | ClH
reactant | water | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | 4-Hydroxy-N-(4-hydroxy-benzyl)-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-benzenesulfonamide | OC1=CC=C(C=C1)S(=O)(=O)N(C1=CC=C(C=C1)OCCN1CCCC1)CC1=CC=C(C=C1)O | C25H28N2O5S
